US07348359B2
A mixture of 333 mg (0.969 mmol) of 2-hydroxy-5-(5-ethyl-3-tert-butyl-2-methoxymethoxyphenyl)-benzaldehyde, 116 mg (1.26 mmol, 0.1 mL) of chloroacetone and 473 mg (1.45 mmol, 1.5 equivalents) of Cs2CO3 in 5 mL of dry DMF was heated to 60° C. overnight. After cooling, water was added (15 mL) and the solution was extracted with ethyl acetate. The organic layer was washed with water and brine, then dried over MgSO4. Evaporation of the solvents followed by purification over a short silica plug afforded 2-acetyl-5-(5-ethyl-3-tert-butyl-2-methoxymethoxyphenyl)-benzo[b]furan as a clear yellow oil (200 mg, 0526 mmol, yield: 54%). 1H NMR(CDCl3), δ:7.85 (d, J=1.4 Hz, 1H), 7.68 (dd, J=8.7, 1.7 Hz, 1H), 7.62 (d, J=8.7 Hz, 1H), 7.19 (d, J=2.1 Hz, 1H), 7.02 (d, J=2.3 Hz, 1H), 4.44 (s, 2H), 3.21 (s, 3H), 2.65 (m, 2H), 2.63 (s, 3H), 1.48 (s, 9H), 1.27 (t, J=7.7 Hz, 3H).

reactant | 2-hydroxy-5-(5-ethyl-3-tert-butyl-2-methoxymethoxyphenyl)-benzaldehyde | 0.969 mmol, 333 mg | OC1=C(C=O)C=C(C=C1)C1=C(C(=CC(=C1)CC)C(C)(C)C)OCOC | C21H26O4
reactant | chloroacetone | 1.26 mmol, 0.1 mL, 116 mg | ClCC(C)=O | C3H5ClO
reactant | Cs2CO3 | 1.45 mmol, 473 mg, 1.5 equivalents | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | water | O | H2O
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 2-acetyl-5-(5-ethyl-3-tert-butyl-2-methoxymethoxyphenyl)-benzo[b]furan | yield: 54% | C(C)(=O)C1=CC2=C(O1)C=CC(=C2)C2=C(C(=CC(=C2)CC)C(C)(C)C)OCOC | C24H28O4
